US04725599
Methyl trans-2-[3-(6,7-Dichloro-3,4-dihydro-4-oxothieno[3,2 -d]pyrimidin-3-yl)-2-oxopropyl]-3-hydroxy-1-piperidinecarboxylate
A 35 ml single neck round bottom flask equipped with a magnetic stirring bar was flame dried and then stoppered with a serum cap. Through a syringe needle the flask was evacuated and filled with dry nitrogen four times. A solution of 0.270 g (0.0006 mole) of methyl trans-2-[3-(6,7-dichloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate and 10 ml of dichloromethane was injected into the reaction flask, and with stirring the temperature was lowered to -70° C. Again with a syringe 3.0 ml of 1.0M boron tribromide in dichloromethane (Aldrich Chemical Co.) was introduced into the reaction vessel. After 10 minutes the reaction temperature was allowed to rise to -10° C. and was held there for 150 minutes. There was then added 11 ml of saturated aqueous sodium bicarbonate to the reaction mixture. A small amount of solid matter was filtered, and the layers of the filtrate were separated. The aqueous phase was extracted three times with 5 ml portions of dichloromethane. The extracts were combined with the organic layer, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to furnish the title compound as an off white solid: yield 0.190 g (73%); mass spectrum peaks 434 (molecular ion), 415 (--1, --18, --H, --H2O), 195, 126 (parent) among others; 1H-nmr (CDCl3) delta 1.2-2.0 ppm (multiplet, 4H, OCHCH2CH2CH2N), 2.85 (doublet, 2H, COCH2CH), 3.0 (broad triplet, 2H, NCH2), 3.7 (singlet 3H, CO2CH3), 3.9-4.0 (multiplet, 2H, CH2CHNCO and OH), 4.7 (triplet with fine splitting, 1H, CHOCH3), 4.9-5.2 (multiplet, 2H, NCH2CO), 8.1 (singlet, 1H, N=CH--N).

reactant | methyl trans-2-[3-(6,7-dichloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate | 0.0006 mole, 0.270 g | ClC1=C(C=2N=CN(C(C2S1)=O)CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OC)=O)Cl | C17H19Cl2N3O5S
reactant | boron tribromide | 1.0M, 3.0 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 11 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl trans-2-[3-(6,7-Dichloro-3,4-dihydro-4-oxothieno[3,2 -d]pyrimidin-3-yl)-2-oxopropyl]-3-hydroxy-1-piperidinecarboxylate | ClC1=C(C=2N=CN(C(C2S1)=O)CC(C[C@@H]1N(CCC[C@H]1O)C(=O)OC)=O)Cl | C16H17Cl2N3O5S
